US08426448B2
Dissolve [1-(6-cyclopropyl-pyridin-2-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester (1.3 g, 4.7 mmol) in 2 N HCl/Et2O (excess) with a small amount of methanol to effect solution. Stir until the starting material is consumed, monitoring by LC-MS. Evaporate and partition the residue between dichloromethane and aqueous sodium bicarbonate. Extract with dichloromethane, filter and evaporate to give 1-(6-cyclopropyl-pyridin-2-yl)-1-methyl-ethylamine as an orange oil (610 mg, 75%). LC-MS ESI m/z: 177.2 (M+H)+, Tr=1.80 min, method 1.

reactant | [1-(6-cyclopropyl-pyridin-2-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 4.7 mmol, 1.3 g | C(C)(C)(C)OC(NC(C)(C)C1=NC(=CC=C1)C1CC1)=O | C16H24N2O2
solvent | HCl Et2O | 2 N | Cl.CCOCC
solvent | methanol | CO | CH4O
product | 1-(6-cyclopropyl-pyridin-2-yl)-1-methyl-ethylamine | 610 mg, 75% | C1(CC1)C1=CC=CC(=N1)C(C)(C)N | C11H16N2
